US05114960
2.4 g (0.039 mol) of methyl 3-(4-chlorophenyl)-4,5,6,7,8,9-hexahydrocyclooct[d]isoxazole-8-carboxylate were stirred for 18 hours in 10 ml of methanol, 0.5 g of potassium hydroxide and 2 ml of water. The methanol was removed by evaporation and the residual gum was dissolved in water. Acidification with a few drops of concentrated hydrochloric acid gave a white granular precipitate which was filtered off, washed with water and dried. After crystallization from glacial acetic acid, there were obtained 1.9 g of 3-(4-chlorophenyl)-4,5,6,7,8,9-hexahydrocyclooct[d]isoxazole-8-carboxylic acid of melting point 215° C.

reactant | methyl 3-(4-chlorophenyl)-4,5,6,7,8,9-hexahydrocyclooct[d]isoxazole-8-carboxylate | 0.039 mol, 2.4 g | ClC1=CC=C(C=C1)C1=NOC2=C1CCCCC(C2)C(=O)OC | C17H18ClNO3
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
reactant | water | 2 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 3-(4-chlorophenyl)-4,5,6,7,8,9-hexahydrocyclooct[d]isoxazole-8-carboxylic acid | 1.9 g | ClC1=CC=C(C=C1)C1=NOC2=C1CCCCC(C2)C(=O)O | C16H16ClNO3
